US08278482B2
Benzyl 4-(dodecyl(methyl)amino)-2-methylbutan-2-ylcarbamate
Crude N1-dodecyl-N1,3-dimethylbutane-1,3-diamine (5.61 g, 19.7 mmol) was dissolved into THF (100 mL) and cooled in an ice bath. Solid CbzOSu (4.91 g, 1 equiv, 19.7 mmol) was added to the reaction in one portion. The reaction was left to stir at room temperature for 16 h. The solvent was removed and the residue was taken up in a mixture of ethyl acetate (150 mL) and water (50 mL). The layers were separated and the organic layer washed with 1 M sodium carbonate (2×50 mL) and brine (50 mL). The organic layer was dried over anhydrous MgSO4, filtered and concentrated to a pale yellow oil (8.08 g). The crude oil was purified on an ISCO purification system with gradient elution from 25-100% ethyl acetate in hexanes. The desired fractions were collected and concentrated to give a pale yellow oil (5.71 g, yield: 69.2%). 1H NMR (CDCl3, 400 MHz): δ 0.89-0.92 (t, J=6, 3H), 1.21-1.36 (m, 17H), 1.39 (s, 6H), 1.56-1.66 (m, 4H), 2.21 (s, 3H), 2.30-2.34 (t, J=8, 2H), 2.46-2.49 (t, J=6, 2H), 5.06 (s, 2H), 7.28-7.41 (m, 5H). LRMS (ESI+) for C26H46N2O2 (418.4); Found: 419 (MH+).

reactant | N1-dodecyl-N1,3-dimethylbutane-1,3-diamine | 19.7 mmol, 5.61 g | C(CCCCCCCCCCC)N(CCC(C)(N)C)C | C18H40N2
reactant | CbzOSu | 19.7 mmol, 4.91 g, 1 equiv | C(=O)(OCC1=CC=CC=C1)ON1C(=O)CCC1=O | C12H11NO5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Benzyl 4-(dodecyl(methyl)amino)-2-methylbutan-2-ylcarbamate | 5.71 g, yield: 69.2% | C(CCCCCCCCCCC)N(CCC(C)(C)NC(OCC1=CC=CC=C1)=O)C | C26H46N2O2
